US04011230
β-Nitrostyrene (14.9 grams, 0.10 mole) was added in portions to a stirred mixture of piperidinium 1-piperidinecarbodithioate (24.6 grams, 0.10 mole), and carbon disulfide (7.6 grams, 0.10 mole) in methanol (200 ml.). During the addition, the reaction temperature was 25° C.-29° C. After the addition of β-nitrostyrene, the reaction mixture was cooled to 8° C., and the precipitated product was filtered off, washed with water, and dried in air. The yield of product melting at 85° C.-87° C. (prior sintering) was 29.0 grams (93%). Repeated recrystallizations without heating from methylene chloride-hexane and methylene chloride-methanol solutions gave pure α-(nitromethyl)benzyl 1-piperidinecarbodithioate melting at 86° C.-90.5° C. (prior sintering).

reactant | β-Nitrostyrene | 0.10 mole, 14.9 grams | [N+](=O)([O-])C=CC1=CC=CC=C1 | C8H7NO2
reactant | piperidinium 1-piperidinecarbodithioate | 0.10 mole, 24.6 grams | N1(CCCCC1)C(=S)[S-].[NH2+]1CCCCC1
reactant | carbon disulfide | 0.10 mole, 7.6 grams | C(=S)=S | CS2
solvent | methanol | 200 ml | CO | CH4O
product | α-(nitromethyl)benzyl 1-piperidinecarbodithioate | N1(CCCCC1)C(=S)SC(C1=CC=CC=C1)C[N+](=O)[O-] | C14H18N2O2S2
